US07838530B2
HATU (0.31 g) was added to a solution of N-(3-chloro-2-fluorophenyl)-7-methoxy-6-(piperidin-4-yloxy)quinazolin-4-amine dihydrochloride (300 mg), diisopropylethylamine (0.45 ml) and 3-methyl-4-isoxazolecarboxylic acid (0.128 g) in methylene chloride (9 ml). The resulting mixture was stirred at room temperature for 2.5 hrs. Methylene chloride (20 ml) was added and the organics washed with aqueous sodium hydroxide (2M, 30 ml) and water (30 ml). The crudes were then purified by flash column chromatography eluting with methanol/methylene chloride (2.5/97.5). Fractions containing the desired product were evaporated to a white foam which was triturated with diethyl ether (20 ml) to give N-(3-chloro-2-fluorophenyl)-7-methoxy-6-({1-[(3-methylisoxazol-4-yl)carbonyl]piperidin-4-yl}oxy)quinazolin-4-amine as a white solid (0.068 g). 1H NMR Spectrum: (DMSO d6 373K) 1.86 (m, 2H), 2.02 (m, 2H), 2.30 (s, 3H), 3.52 (m, 2H), 3.82 (m, 2H), 3.96 (s, 3H), 4.79 (m, 1H), 7.22 (m, 1H), 7.22 (s, 1H), 7.40 (m, 1H), 7.58 (m, 1H), 7.89 (s, 1H), 8.39 (s, 1H), 9.00 (s, 1H), 9.25 (br s, 1H); Mass Spectrum: (M+H)+ 512

reactant | HATU | 0.31 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | N-(3-chloro-2-fluorophenyl)-7-methoxy-6-(piperidin-4-yloxy)quinazolin-4-amine dihydrochloride | 300 mg | Cl.Cl.ClC=1C(=C(C=CC1)NC1=NC=NC2=CC(=C(C=C12)OC1CCNCC1)OC)F
reactant | diisopropylethylamine | 0.45 ml | C(C)(C)N(CC)C(C)C | C8H19N
reactant | 3-methyl-4-isoxazolecarboxylic acid | 0.128 g | CC1=NOC=C1C(=O)O | C5H5NO3
solvent | methylene chloride | 9 ml | C(Cl)Cl | CH2Cl2
solvent | Methylene chloride | 20 ml | C(Cl)Cl | CH2Cl2
product | N-(3-chloro-2-fluorophenyl)-7-methoxy-6-({1-[(3-methylisoxazol-4-yl)carbonyl]piperidin-4-yl}oxy)quinazolin-4-amine | 0.068 g | ClC=1C(=C(C=CC1)NC1=NC=NC2=CC(=C(C=C12)OC1CCN(CC1)C(=O)C=1C(=NOC1)C)OC)F | C25H23ClFN5O4
